US09034866B2
Synthesis of (±)-9-chloro-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as describe in General Procedure G, 10-bromo-9-chloro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with racemic 2-(5-methyl-1,2-oxazol-3-yl)but-3-yn-2-ol to give the titled compound as a yellow solid (40 mg, 32%).

reactant | 10-bromo-9-chloro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)Cl | C12H9BrClN3O2
reactant | racemic 2-(5-methyl-1,2-oxazol-3-yl)but-3-yn-2-ol | CC1=CC(=NO1)C(C)(C#C)O | C8H9NO2
product | (±)-9-chloro-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 40 mg, 32% | ClC1=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C=C1C#CC(C)(C1=NOC(=C1)C)O | C20H17ClN4O4
